US08703758B2
H) N-[(1S)-2-({1-[5-(cyclopropylmethoxy)[1,3]oxazolo[5,4-c]pyridin-2-yl]piperidin-4-yl}oxy)-1-methylethyl]acetamide
To tert-butyl [(1S)-2-({1-[5-(cyclopropylmethoxy)[1,3]oxazolo[5,4-c]pyridin-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate (328 mg) was added 2M hydrogen chloride/methanol (4 mL), and the mixture was stirred at room temperature for 10 min and concentrated. Pyridine (4 mL) and acetic anhydride (0.5 mL) were added to the residue, and the mixture was stirred at room temperature for 5 min. The reaction mixture was concentrated, saturated brine was added to the residue, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (methanol/ethyl acetate). The obtained solid was washed with diisopropyl ether to give the title compound (197 mg).

reactant | tert-butyl [(1S)-2-({1-[5-(cyclopropylmethoxy)[1,3]oxazolo[5,4-c]pyridin-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate | 328 mg | C1(CC1)CON1C=C2C(C=C1)=NC(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O | C23H36N4O5
reactant | hydrogen chloride methanol | 2M, 4 mL | Cl.CO
product | N-[(1S)-2-({1-[5-(cyclopropylmethoxy)[1,3]oxazolo[5,4-c]pyridin-2-yl]piperidin-4-yl}oxy)-1-methylethyl]acetamide | 197 mg | C1(CC1)CON1C=C2C(C=C1)=NC(O2)N2CCC(CC2)OC[C@H](C)NC(C)=O | C20H30N4O4
